US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-[4-(phenyloxy)butyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 4, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0604 g, 0.206 mmol) and 4-bromobutyl phenyl ether (0.106 g, 0.463 mmol) in 2 CH3CN/3 CHCl3 (5.0 mL) were reacted to give the desired product (0.0649 g, 64.9%). EI-MS m/z 442(M+) Rt (2.13 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.206 mmol, 0.0604 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 4-bromobutyl phenyl ether | 0.463 mmol, 0.106 g | C1(=CC=CC=C1)OCCCCBr | C10H13BrO
solvent | CH3CN | 5.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[4-(phenyloxy)butyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0649 g, 64.9% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCCOC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C30H36NO2.BrH/c32-30(26-12-4-1-5-13-26,27-14-6-2-7-15-27)29-18-22-31(23-19-29,24-20-29)21-10-11-25-33-28-16-8-3-9-17-28;/h1-9,12-17,32H,10-11,18-25H2;1H/q+1;/p-1
